US08193207B2
Lithium bis(trimethylsilyl)amide (LiHMDS) in THF (1.0 M, 7.2 mL, 0.0072 mol) was added to a solution of 1-benzyl 4-methyl piperidine-1,4-dicarboxylate (1.00 g, 0.00360 mol) in tetrahydrofuran (10.0 mL) at −78° C. The reaction mixture had been stirred at −78° C. for 1 hr, then 1-bromo-2-chloroethane (0.45 mL, 0.0054 mol) was slowly added to the mixture. The reaction mixture was allowed to warm to room temperature and stirred for 2 hrs. The reaction was quenched with saturated NH4Cl, extracted with ethyl acetate. The combined organic layers were dried over Na2SO4, filtered, concentrated. The residue was flash chromatographed (ethyl acetate in hexane: 20%) to afford 1-benzyl 4-methyl 4-(2-chloroethyl)piperidine-1,4-dicarboxylate.

reactant | Lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1-benzyl 4-methyl piperidine-1,4-dicarboxylate | 0.00360 mol, 1.00 g | N1(CCC(CC1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C15H19NO4
reactant | 1-bromo-2-chloroethane | 0.0054 mol, 0.45 mL | BrCCCl | C2H4BrCl
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
solvent | THF | 0.0072 mol, 1.0 M, 7.2 mL | C1CCOC1 | C4H8O
product | 1-benzyl 4-methyl 4-(2-chloroethyl)piperidine-1,4-dicarboxylate | ClCCC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OC | C17H22ClNO4
